US04960432
Preparation of 4-methylamino-2-amino-1,3-dimethoxybenzene hydrochloride
The mixture consisting of 8.5 g of ammonium acetate, 7.5 g of 10% palladium on charcoal, 0.05 mole (15 g) of 5-methylamino-3-amino-2,4-dimethoxychlorobenzene hydrochloride in 14 ml of water containing 90 ml of ethanol and 15.2 g of triethylenediamine, was heated to 70° C. with stirring, and then 6.44 g of formic acid were added dropwise. Heating was maintained for 1 hour after completion of the addition. The catalyst was removed by filtration. The solids content obtained by evaporation of the filtrate under vacuum was dissolved in ethyl acetate. A 7N hydrochloric acid solution in absolute ethanol was added to the ethyl acetate which had been dried over sodium sulphate, in order to precipitate the expected product. The latter was recrystallized while hot from an aqueous-alcoholic solution of hydrochloric acid.

reactant | ammonium acetate | 8.5 g | C(C)(=O)[O-].[NH4+]
reactant | 5-methylamino-3-amino-2,4-dimethoxychlorobenzene hydrochloride | 0.05 mole, 15 g | Cl.CNC=1C(=C(C(=C(C1)Cl)OC)N)OC
reactant | triethylenediamine | 15.2 g | C1CN2CCN1CC2 | C6H12N2
reactant | hydrochloric acid | 7N | Cl | ClH
catalyst | palladium on charcoal | 7.5 g | [Pd] | Pd
solvent | water | 14 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | formic acid | 6.44 g | C(=O)O | CH2O2
product | 4-methylamino-2-amino-1,3-dimethoxybenzene hydrochloride | Cl.CNC1=C(C(=C(C=C1)OC)N)OC | InChI=1S/C9H14N2O2.ClH/c1-11-6-4-5-7(12-2)8(10)9(6)13-3;/h4-5,11H,10H2,1-3H3;1H
